US07767675B2
N,N-Dimethyl-5-{4-[7-(1-quinolin-6-ylcyclopropyl)imidazo[1,2-b][1,2,4]triazin-2-yl]phenyl}pyridine-2-carboxamide
This compound was prepared as a TFA salt starting from 6-{1-[2-(4-bromophenyl)imidazo[1,2-b][1,2,4]triazin-7-yl]cyclopropyl}quinoline using procedures analogous to those for Example 94. LCMS: (M+H)=512.3

reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | 6-{1-[2-(4-bromophenyl)imidazo[1,2-b][1,2,4]triazin-7-yl]cyclopropyl}quinoline | BrC1=CC=C(C=C1)C=1C=NC=2N(N1)C(=CN2)C2(CC2)C=2C=C1C=CC=NC1=CC2 | C23H16BrN5
product | N,N-Dimethyl-5-{4-[7-(1-quinolin-6-ylcyclopropyl)imidazo[1,2-b][1,2,4]triazin-2-yl]phenyl}pyridine-2-carboxamide | CN(C(=O)C1=NC=C(C=C1)C1=CC=C(C=C1)C=1C=NC=2N(N1)C(=CN2)C2(CC2)C=2C=C1C=CC=NC1=CC2)C | C31H25N7O
